US09238631B2
a) 4-[2-(benzyloxy)ethoxy]-3-hydroxybenzaldehyde
A solution of commercially available 3,4-dihydroxybenzaldehyde (17.04 g, 123.7 mmol) in 150 ml DMF and 14.9 g (107.5 mmol) potassium carbonate was stirred at 60° C. for 4 hours. 30.8 g (14.2 mmol) [(2-bromoethoxy)methyl]benzene was added at room temperature. The reaction mixture was stirred over night. The volume of the reaction mixture is reduced to half volume in vacuo. Aqueous saturated ammonium chloride solution and ethyl acetate is added to the reaction mixture. The organic phase is separated, washed twice with saturated aqueous sodium chloride solution, dried with magnesium sulfate filtered and concentrated in vacuo. The crude product is purified by column chromatography (silica gel, hexane/ethylacetate gradient: 7:1→1:2). The desired product was obtained in 22.2% yield (8.27 g, 27.3 mmol).

reactant | 3,4-dihydroxybenzaldehyde | 123.7 mmol, 17.04 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | potassium carbonate | 107.5 mmol, 14.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | [(2-bromoethoxy)methyl]benzene | 14.2 mmol, 30.8 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(benzyloxy)ethoxy]-3-hydroxybenzaldehyde | 22.2% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=O)C=C1)O | C16H16O4
